US07691877B2
[2-Amino-6-(2-methoxy-ethoxy)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester
Sodium hydride (21 mg) was added portion-wise to 2-methoxyethanol (0.5 ml). The resultant solution was added drop-wise to a solution of (2-amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (100 mg) in THF (1.0 ml). The reaction mixture changed from yellow to deep red/orange solution and was left to stir at RT for 1 h. The orange mixture was concentrated in vacuo then partitioned between EtOAc (10 ml) and saturated NH4Cl solution (10 ml). The layers were separated and the organics were washed with water (10 ml) and brine (10 ml) then dried (MgSO4) and evaporated to provide the title compound as a crude yellow gum (111 mg). This was used directly in the next step with no further purification.

reactant | Sodium hydride | 21 mg | [H-].[Na+]
reactant | 2-methoxyethanol | 0.5 ml | COCCO | C3H8O2
reactant | (2-amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 100 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Cl)N)[N+](=O)[O-])=O | C15H15ClN4O4
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | [2-Amino-6-(2-methoxy-ethoxy)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)OCCOC)N)[N+](=O)[O-])=O | C18H22N4O6
